US04357410
A. 4-(N-Methylanilino)-1,2-benzoquinone
2.2 g (0.02 mole) catechol and 2.0 g (0.019 mole) N-methylaniline were dissolved in 80 ml acetone. Then 18.8 g (0.08 mole) silver oxide was added followed by 20 g of anhydrous sodium sulfate. The mixture was stirred at room temperature for 10 minutes and filtered. The residue was washed with several portions of acetone totaling 50 ml. The filtrate was diluted with ligroin (bp 60°-80° C.) and the solid was filtered and washed with ligroin to give 2.6 g (60%). Thin-layer chromatography on Eastman Chromogram silica gel sheets showed essentially a single spot with traces of impurities.

reactant | catechol | 0.02 mole, 2.2 g | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | N-methylaniline | 0.019 mole, 2.0 g | CNC1=CC=CC=C1 | C7H9N
reactant | sodium sulfate | 20 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | acetone | 80 ml | CC(=O)C | C3H6O
catalyst | silver oxide | 0.08 mole, 18.8 g | [Ag]=O
product | 4-(N-Methylanilino)-1,2-benzoquinone | CN(C1=CC=CC=C1)C1=CC(C(C=C1)=O)=O | C13H11NO2
